US08466282B2
Tert-butyl (3S,5R)-3-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(pyrrolidin-1-ylcarbonyl)piperidine-1-carboxylate
(3R,5S)-1-(tert-Butoxycarbonyl)-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-3-carboxylic acid (400 mg) and pyrrolidine (59 mg) were dissolved in DMF (10 ml), WSC.HCL (217 mg) and HOBt (150 mg) were added, and the mixture was stirred at 50° C. for 12 hr. The reaction mixture was poured into 10% aqueous sodium bicarbonate, and the mixture was extracted with ethyl acetate. The extracts were combined and washed with brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (1:1-1:0) was concentrated under reduced pressure to give the object product (420 mg).

reactant | (3R,5S)-1-(tert-Butoxycarbonyl)-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-3-carboxylic acid | 400 mg | C(C)(C)(C)OC(=O)N1C[C@@H](C[C@@H](C1)N(CC(C)C)C(=O)C1=NC2=C(N1CCCCOC)C=CC=C2)C(=O)O | C28H42N4O6
reactant | pyrrolidine | 59 mg | N1CCCC1 | C4H9N
reactant | WSC | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 150 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | Tert-butyl (3S,5R)-3-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(pyrrolidin-1-ylcarbonyl)piperidine-1-carboxylate | 420 mg | COCCCCN1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CN(C[C@@H](C2)C(=O)N2CCCC2)C(=O)OC(C)(C)C)CC(C)C | C32H49N5O5
